US05990101
2-carbamoylimidazo[5,1-b]thiazole
A 294 mg potion of 2-ethoxycarbonylimidazo[5,1-b]thiazole was dissolved in 8 ml of a 2M ammonia/methanol solution, and the mixture was then stirred at room temperature for 4 days. After concentration under reduced pressure, 3 ml of dichloromethane was added to the resulting residue, and the precipitate was collected by filtration, washed with dichloromethane, and then dried under reduced pressure to obtain 226 mg of the title compound.

reactant | 2-ethoxycarbonylimidazo[5,1-b]thiazole | C(C)OC(=O)C1=CN2C(S1)=CN=C2 | C8H8N2O2S
reactant | ammonia methanol | 2M | N.CO
product | 2-carbamoylimidazo[5,1-b]thiazole | 226 mg | C(N)(=O)C1=CN2C(S1)=CN=C2 | C6H5N3OS
